US09216973B2
5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde
Manganese dioxide (17.7 g, 203 mmol) was added to a solution of [5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-methanol (7.98 g, 25.4 mmol) in chloroform (170 ml). After stirring for 4 h at 60° C. the reaction mixture was cooled to 20° C. and filtered. The filtrate was concentrated and the residue was purified by chromatography over silica (cyclohexane/ethylacetate; 3/1) to give 4.1 g of a yellow oil. 1H-NMR (CDCl3, 400 MHz): 9.93 (s, 1H) 7.42-7.48 (m, 3H), 3.88 (d, 2H), 3.50 (d, 1H).

reactant | [5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-methanol | 25.4 mmol, 7.98 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)CO)C(F)(F)F | C11H8Cl2F3NO2
solvent | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 203 mmol, 17.7 g | [O-2].[O-2].[Mn+4]
product | 5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde | 4.1 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C=O)C(F)(F)F | C11H6Cl2F3NO2
